US06861418B2
To a solution of 4-(4-methoxy-phenyl)-1,3-dihydro-indol-2-one (59.8 mg, 0.25 mmol) and 2-Formyl-5-methyl-1H-pyrrole-3-carboxylic acid (2-[1,2,3]triazol-1-yl-ethyl)amide (64.8 mg, 0.25 mmol) in ethanol (2 mL) was added piperidine (3 drops). The reaction mixture was stirred at room temperature for three days. A yellow solid product was precipitated out, filtered, washed by ethanol for three times, and dried under high vacuum to provide pure product 2-[4-(4-Methoxy-phenyl)-2-oxo-1,2-dihydro-indol-3-ylidenemethyl]-5-methyl-1H-pyrrole-3-carboxylic acid (2-[1,2,3-triazol-1-yl-ethyl)-amide as a yellow solid (61 mg, 52%).

reactant | 4-(4-methoxy-phenyl)-1,3-dihydro-indol-2-one | 0.25 mmol, 59.8 mg | COC1=CC=C(C=C1)C1=C2CC(NC2=CC=C1)=O | C15H13NO2
reactant | 2-Formyl-5-methyl-1H-pyrrole-3-carboxylic acid (2-[1,2,3]triazol-1-yl-ethyl)amide | 0.25 mmol, 64.8 mg | N1(N=NC=C1)CCNC(=O)C1=C(NC(=C1)C)C=O | C11H13N5O2
reactant | ethanol | 2 mL | C(C)O | C2H6O
catalyst | piperidine | 3 drops | N1CCCCC1 | C5H11N
product | 2-[4-(4-Methoxy-phenyl)-2-oxo-1,2-dihydro-indol-3-ylidenemethyl]-5-methyl-1H-pyrrole-3-carboxylic acid | COC1=CC=C(C=C1)C1=C2C(C(NC2=CC=C1)=O)=CC=1NC(=CC1C(=O)O)C | C22H18N2O4
